US08871756B2
N-[(3-Aminooxetan-3-yl)methyl]-2-(5,5-difluoro-1,3,4,5-tetrahydro-2H-2-benzazepin-2-yl)-6-methylquinazolin-4-amine
A solution of N-{[3-(dibenzylamino)oxetan-3-yl]methyl}-2-(5,5-difluoro-1,3,4,5-tetrahydro-2H-2-benzazepin-2-yl)-6-methylquinazolin-4-amine (190 mg, 0.314 mmol) and trifluororacetic acid (1 drop) in methanol was stirred in the presence of palladium hydroxide on carbon (50 mg) at room temperature under hydrogen atmosphere overnight. The resulting mixture was filtered, concentrated in vacuo. The residue was purified by preparative HPLC to afford 32 mg of the product as a white solid (yield was 24%). MS obsd. (ESI+) [(M+H)+] 426, 1H NMR (400 MHz, CD3OD) δ ppm 7.696 (s, 1 H), 7.654-7.636 (d, J=7.2 Hz, 1 H), 7.607-7.588 (d, J=7.6 Hz, 1 H), 7.404-7.367 (m, 2 H), 7.341-7.283 (m, 2 H), 5.011 (s, 2 H), 4.683-4.626 (m, 2 H), 4.556-4.540 (d, J=6.4 Hz, 2 H), 4.335-4.307 (t, J=5.6 Hz, 2 H), 4.084 (s, 2 H), 5.528-2.432 (m, 2 H), 2.398 (s, 3 H).

reactant | N-{[3-(dibenzylamino)oxetan-3-yl]methyl}-2-(5,5-difluoro-1,3,4,5-tetrahydro-2H-2-benzazepin-2-yl)-6-methylquinazolin-4-amine | 0.314 mmol, 190 mg | C(C1=CC=CC=C1)N(C1(COC1)CNC1=NC(=NC2=CC=C(C=C12)C)N1CC2=C(C(CC1)(F)F)C=CC=C2)CC2=CC=CC=C2 | C37H37F2N5O
solvent | methanol | CO | CH4O
catalyst | palladium hydroxide on carbon | 50 mg | [OH-].[OH-].[Pd+2]
product | N-[(3-Aminooxetan-3-yl)methyl]-2-(5,5-difluoro-1,3,4,5-tetrahydro-2H-2-benzazepin-2-yl)-6-methylquinazolin-4-amine | 32 mg, yield was 24% | NC1(COC1)CNC1=NC(=NC2=CC=C(C=C12)C)N1CC2=C(C(CC1)(F)F)C=CC=C2 | C23H25F2N5O
